US09193693B2
Step 3. Methyl 3-(3-(2-bromophenyl)propylamino)-2-phenylquinoxaline-6-carboxylate
Into a 20-mL sealed tube, was placed methyl 3-chloro-2-phenylquinoxaline-6-carboxylate (180 mg, 0.60 mmol, 1.00 equiv), toluene/DMSO (5/1 mL), 3-(2-bromophenyl)propan-1-amine (385 mg, 1.80 mmol, 2.99 equiv), and potassium carbonate (414 mg, 3.00 mmol, 4.98 equiv). The resulting solution was stirred overnight at 100° C. The mixture was concentrated under vacuum. The residue was purified by silica gel chromatography with ethyl acetate/petroleum ether (1:50). This resulted in 240 mg (80%) of methyl 3-(3-(2-bromophenyl)propylamino)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-chloro-2-phenylquinoxaline-6-carboxylate | 0.60 mmol, 180 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11ClN2O2
reactant | 3-(2-bromophenyl)propan-1-amine | 1.80 mmol, 385 mg, 2.99 equiv | BrC1=C(C=CC=C1)CCCN | C9H12BrN
reactant | potassium carbonate | 3.00 mmol, 414 mg, 4.98 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | toluene DMSO | 1 mL | C1(=CC=CC=C1)C.CS(=O)C
product | Methyl 3-(3-(2-bromophenyl)propylamino)-2-phenylquinoxaline-6-carboxylate | BrC1=C(C=CC=C1)CCCNC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C25H22BrN3O2
